**************************************************
* Manufacturer:          Würth Elektronik
* Kinds:                 SMT High Current Inductor
* Matchcode:             WE-LHCA
* Library Type:          Pspice
* Version:               rev24a
* Created/modified by:   Ella
* Date and Time:         4/22/2024
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt LHCA_7030_7843734600047_0u47 1 2
Rp 1 2 1130
Cp 1 2 6.476p
Rs 1 N3 0.0038
L1 N3 2 0.476216u
.ends LHCA_7030_7843734600047_0u47
*******
.subckt LHCA_7030_7843734600056_0.56u 1 2
Rp 1 2 1190
Cp 1 2 8.467p
Rs 1 N3 0.0042
L1 N3 2 0.563u
.ends LHCA_7030_7843734600056_0.56u
*******
.subckt LHCA_7030_7843734600068_0.68u 1 2
Rp 1 2 1580
Cp 1 2 8.83p
Rs 1 N3 0.0047
L1 N3 2 0.7434u
.ends LHCA_7030_7843734600068_0.68u
*******
.subckt LHCA_7030_784373460010_1u 1 2
Rp 1 2 2377
Cp 1 2 8.893p
Rs 1 N3 0.0063
L1 N3 2 1.044u
.ends LHCA_7030_784373460010_1u
*******
.subckt LHCA_7030_784373460015_1u5 1 2
Rp 1 2 3427
Cp 1 2 10.409p
Rs 1 N3 0.0103
L1 N3 2 1.513u
.ends LHCA_7030_784373460015_1u5
*******
.subckt LHCA_7030_784373460022_2u2 1 2
Rp 1 2 4555
Cp 1 2 13.016p
Rs 1 N3 0.015
L1 N3 2 2.207u
.ends LHCA_7030_784373460022_2u2
*******
.subckt LHCA_7030_784373460033_3u3 1 2
Rp 1 2 7191
Cp 1 2 11.665p
Rs 1 N3 0.021
L1 N3 2 3.313u
.ends LHCA_7030_784373460033_3u3
*******
.subckt LHCA_7030_784373460047_4u7 1 2
Rp 1 2 9132
Cp 1 2 10.277p
Rs 1 N3 0.027
L1 N3 2 4.4235u
.ends LHCA_7030_784373460047_4u7
*******
.subckt LHCA_7030_784373460056_5u6 1 2
Rp 1 2 11073
Cp 1 2 8.889p
Rs 1 N3 0.035
L1 N3 2 5.534u
.ends LHCA_7030_784373460056_5u6
*******
.subckt LHCA_7030_784373460068_6u8 1 2
Rp 1 2 11836
Cp 1 2 11.428p
Rs 1 N3 0.041
L1 N3 2 6.674u
.ends LHCA_7030_784373460068_6u8
*******
.subckt LHCA_7030_784373460082_8u2 1 2
Rp 1 2 12265
Cp 1 2 13.86p
Rs 1 N3 0.05
L1 N3 2 8.494u
.ends LHCA_7030_784373460082_8u2
*******
.subckt LHCA_7030_784373460100_10u 1 2
Rp 1 2 14957
Cp 1 2 12.924p
Rs 1 N3 0.061
L1 N3 2 9.823u
.ends LHCA_7030_784373460100_10u
*******
.subckt LHCA_7030_784373460150_15u 1 2
Rp 1 2 20935
Cp 1 2 12.746p
Rs 1 N3 0.096
L1 N3 2 15.667u
.ends LHCA_7030_784373460150_15u
*******
.subckt LHCA_7030_784373460220_22u 1 2
Rp 1 2 22952
Cp 1 2 10.458p
Rs 1 N3 0.163
L1 N3 2 22.026u
.ends LHCA_7030_784373460220_22u
*******
.subckt LHCA_1040_784373680010_1u 1 2
Rp 1 2 2404
Cp 1 2 15.695p
Rs 1 N3 0.0027
L1 N3 2 1.004u
.ends LHCA_1040_784373680010_1u
*******
.subckt LHCA_1040_784373680015_1u5 1 2
Rp 1 2 3568
Cp 1 2 16.118p
Rs 1 N3 0.0042
L1 N3 2 1.56u
.ends LHCA_1040_784373680015_1u5
*******
.subckt LHCA_1040_784373680022_2u2 1 2
Rp 1 2 4382
Cp 1 2 16.707p
Rs 1 N3 0.0078
L1 N3 2 2.139u
.ends LHCA_1040_784373680022_2u2
*******
.subckt LHCA_1040_784373680033_3u3 1 2
Rp 1 2 6506
Cp 1 2 17.685p
Rs 1 N3 0.0099
L1 N3 2 3.186u
.ends LHCA_1040_784373680033_3u3
*******
.subckt LHCA_1040_784373680047_4u7 1 2
Rp 1 2 7386
Cp 1 2 28.824p
Rs 1 N3 0.0135
L1 N3 2 4.764u
.ends LHCA_1040_784373680047_4u7
*******
.subckt LHCA_1040_784373680068_6u8 1 2
Rp 1 2 11227
Cp 1 2 19.746p
Rs 1 N3 0.019
L1 N3 2 7.545u
.ends LHCA_1040_784373680068_6u8
*******
.subckt LHCA_1040_784373680082_8u2 1 2
Rp 1 2 13817
Cp 1 2 21.041p
Rs 1 N3 0.025
L1 N3 2 8.306u
.ends LHCA_1040_784373680082_8u2
*******
.subckt LHCA_1040_784373680100_10u 1 2
Rp 1 2 14480
Cp 1 2 19.166p
Rs 1 N3 0.028
L1 N3 2 9.737u
.ends LHCA_1040_784373680100_10u
*******
.subckt LHCA_1040_784373680150_15u 1 2
Rp 1 2 14776
Cp 1 2 25.959p
Rs 1 N3 0.042
L1 N3 2 14.064u
.ends LHCA_1040_784373680150_15u
*******
.subckt LHCA_1040_784373680220_22u 1 2
Rp 1 2 20862
Cp 1 2 19.55p
Rs 1 N3 0.059
L1 N3 2 21.436u
.ends LHCA_1040_784373680220_22u
*******
.subckt LHCA_1040_784373680330_33u 1 2
Rp 1 2 19933
Cp 1 2 21.241p
Rs 1 N3 0.087
L1 N3 2 31.494u
.ends LHCA_1040_784373680330_33u
*******
.subckt LHCA_1040_784373680470_47u 1 2
Rp 1 2 22726
Cp 1 2 21.642p
Rs 1 N3 0.14
L1 N3 2 44.237u
.ends LHCA_1040_784373680470_47u
*******
.subckt LHCA_1040_784373680560_56u 1 2
Rp 1 2 23373
Cp 1 2 23.126p
Rs 1 N3 0.17
L1 N3 2 56.086u
.ends LHCA_1040_784373680560_56u
*******
.subckt LHCA_1040_784373680680_68u 1 2
Rp 1 2 23994
Cp 1 2 22.124p
Rs 1 N3 0.215
L1 N3 2 67.294u
.ends LHCA_1040_784373680680_68u
*******
.subckt LHCA_1365_784373865010_1u 1 2
Rp 1 2 2146
Cp 1 2 12.27p
Rs 1 N3 0.0017
L1 N3 2 0.894326u
.ends LHCA_1365_784373865010_1u
*******
.subckt LHCA_1365_784373865015_1u5 1 2
Rp 1 2 2989
Cp 1 2 19.065p
Rs 1 N3 0.0025
L1 N3 2 1.408u
.ends LHCA_1365_784373865015_1u5
*******
.subckt LHCA_1365_784373865022_2u2 1 2
Rp 1 2 5282
Cp 1 2 19.462p
Rs 1 N3 0.004
L1 N3 2 2.155u
.ends LHCA_1365_784373865022_2u2
*******
.subckt LHCA_1365_784373865033_3u3 1 2
Rp 1 2 6206
Cp 1 2 23.232p
Rs 1 N3 0.005
L1 N3 2 3.23u
.ends LHCA_1365_784373865033_3u3
*******
.subckt LHCA_1365_784373865047_4u7 1 2
Rp 1 2 8349
Cp 1 2 23.43p
Rs 1 N3 0.0079
L1 N3 2 4.473u
.ends LHCA_1365_784373865047_4u7
*******
.subckt LHCA_1365_784373865056_5u6 1 2
Rp 1 2 8793
Cp 1 2 21.186p
Rs 1 N3 0.0093
L1 N3 2 5.168u
.ends LHCA_1365_784373865056_5u6
*******
.subckt LHCA_1365_784373865068_6u8 1 2
Rp 1 2 9774
Cp 1 2 24.487p
Rs 1 N3 0.01
L1 N3 2 6.084u
.ends LHCA_1365_784373865068_6u8
*******
.subckt LHCA_1365_784373865082_8u2 1 2
Rp 1 2 13010
Cp 1 2 27.752p
Rs 1 N3 0.012
L1 N3 2 7.196u
.ends LHCA_1365_784373865082_8u2
*******
.subckt LHCA_1365_784373865100_10u 1 2
Rp 1 2 13949
Cp 1 2 32.018p
Rs 1 N3 0.015
L1 N3 2 9.912u
.ends LHCA_1365_784373865100_10u
*******
.subckt LHCA_1365_784373865150_15u 1 2
Rp 1 2 17003
Cp 1 2 27.331p
Rs 1 N3 0.0245
L1 N3 2 14.295u
.ends LHCA_1365_784373865150_15u
*******
.subckt LHCA_1365_784373865220_22u 1 2
Rp 1 2 20111
Cp 1 2 34.582p
Rs 1 N3 0.035
L1 N3 2 20.68u
.ends LHCA_1365_784373865220_22u
*******
.subckt LHCA_1365_784373865330_33u 1 2
Rp 1 2 31139
Cp 1 2 22.881p
Rs 1 N3 0.06
L1 N3 2 31.254u
.ends LHCA_1365_784373865330_33u
*******
.subckt LHCA_1365_784373865470_47u 1 2
Rp 1 2 32098
Cp 1 2 27.595p
Rs 1 N3 0.072
L1 N3 2 44.021u
.ends LHCA_1365_784373865470_47u
*******
.subckt LHCA_1770_784373170047_4u7 1 2
Rp 1 2 7650
Cp 1 2 34.236p
Rs 1 N3 0.0044
L1 N3 2 4.352u
.ends LHCA_1770_784373170047_4u7
*******
.subckt LHCA_1770_784373170056_5u6 1 2
Rp 1 2 8544
Cp 1 2 34.286p
Rs 1 N3 0.0058
L1 N3 2 5.097u
.ends LHCA_1770_784373170056_5u6
*******
.subckt LHCA_1770_784373170068_6u8 1 2
Rp 1 2 8993
Cp 1 2 42.756p
Rs 1 N3 0.007
L1 N3 2 6.283u
.ends LHCA_1770_784373170068_6u8
*******
.subckt LHCA_1770_784373170082_8u2 1 2
Rp 1 2 10369
Cp 1 2 39.92p
Rs 1 N3 0.0082
L1 N3 2 7.302u
.ends LHCA_1770_784373170082_8u2
*******
.subckt LHCA_1770_784373170100_10u 1 2
Rp 1 2 10803
Cp 1 2 47.553p
Rs 1 N3 0.01
L1 N3 2 9.477u
.ends LHCA_1770_784373170100_10u
*******
.subckt LHCA_1770_784373170150_15u 1 2
Rp 1 2 13518
Cp 1 2 42.41p
Rs 1 N3 0.017
L1 N3 2 13.447u
.ends LHCA_1770_784373170150_15u
*******
.subckt LHCA_1770_784373170220_22u 1 2
Rp 1 2 18574
Cp 1 2 50.979p
Rs 1 N3 0.022
L1 N3 2 20.346u
.ends LHCA_1770_784373170220_22u
*******
.subckt LHCA_1770_784373170330_33u 1 2
Rp 1 2 20483
Cp 1 2 56.43p
Rs 1 N3 0.03
L1 N3 2 30.596u
.ends LHCA_1770_784373170330_33u
*******
.subckt LHCA_1770_784373170470_47u 1 2
Rp 1 2 29041
Cp 1 2 56.591p
Rs 1 N3 0.048
L1 N3 2 44.842u
.ends LHCA_1770_784373170470_47u
*******
.subckt LHCA_1770_784373170560_56u 1 2
Rp 1 2 23311
Cp 1 2 67.779p
Rs 1 N3 0.052
L1 N3 2 53.899u
.ends LHCA_1770_784373170560_56u
*******
.subckt LHCA_1770_784373170680_68u 1 2
Rp 1 2 25836
Cp 1 2 62.347p
Rs 1 N3 0.075
L1 N3 2 74.579u
.ends LHCA_1770_784373170680_68u
*******
.subckt LHCA_1770_784373170820_82u 1 2
Rp 1 2 40675
Cp 1 2 44.162p
Rs 1 N3 0.09
L1 N3 2 82.724u
.ends LHCA_1770_784373170820_82u
*******
