**************************************************
* Manufacturer:          Wurth Elektronik 
* Kinds:                 EMI Multilayer Power Suppression Bead
* Matchcode:             WE-MPSA
* Library Type:          Pspice
* Version:               rev21a
* Created/modified by:   Ella
* Date and Time:         7/25/2023
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
.subckt MPSA_0805_78279220321_320ohm 1 2
Rp 1 2 355
Cp 1 2 1.5p
Rs 1 N3 0.05
L1 N3 2 0.96u
.ends MPSA_0805_78279220321_320ohm
*******
.subckt MPSA_0805_78279220601_600ohm 1 2
Rp 1 2 545
Cp 1 2 1.3p
Rs 1 N3 0.08
L1 N3 2 1.8u
.ends MPSA_0805_78279220601_600ohm
*******
.subckt MPSA_0805_78279220800_80ohm 1 2
Rp 1 2 82
Cp 1 2 0.325366p
Rs 1 N3 0.018
L1 N3 2 0.270513u
.ends MPSA_0805_78279220800_80ohm
*******
.subckt MPSA_1206_78279221281_280ohm 1 2
Rp 1 2 290
Cp 1 2 2p
Rs 1 N3 0.035
L1 N3 2 0.82u
.ends MPSA_1206_78279221281_280ohm
*******
.subckt MPSA_1206_78279221601_600ohm 1 2
Rp 1 2 580
Cp 1 2 2.4p
Rs 1 N3 0.05
L1 N3 2 1.5u
.ends MPSA_1206_78279221601_600ohm
*******
.subckt MPSA_1612_78279223560_56ohm 1 2
Rp 1 2 74.35
Cp 1 2 0.08221p
Rs 1 N3 0.004
L1 N3 2 0.17317u
.ends MPSA_1612_78279223560_56ohm
*******
.subckt MPSA_1812_78279226101_100ohm 1 2
Rp 1 2 152
Cp 1 2 0.078p
Rs 1 N3 0.006
L1 N3 2 0.2888u
.ends MPSA_1812_78279226101_100ohm
*******
.subckt MPSA_2220_78279224101_100ohm 1 2
Rp 1 2 195.6
Cp 1 2 0.170058p
Rs 1 N3 0.005
L1 N3 2 0.22059u
.ends MPSA_2220_78279224101_100ohm
*******
.subckt MPSA_2220_78279224151_150ohm 1 2
Rp 1 2 277.6
Cp 1 2 0.150624p
Rs 1 N3 0.01
L1 N3 2 0.425278u
.ends MPSA_2220_78279224151_150ohm
*******
.subckt MPSA_2220_78279224171_170ohm 1 2
Rp 1 2 236.2
Cp 1 2 0.11p
Rs 1 N3 0.015
L1 N3 2 0.5425u
.ends MPSA_2220_78279224171_170ohm
*******
.subckt MPSA_2220_78279224181_180ohm 1 2
Rp 1 2 301
Cp 1 2 0.1132417p
Rs 1 N3 0.01
L1 N3 2 0.572913u
.ends MPSA_2220_78279224181_180ohm
*******
.subckt MPSA_2220_78279224251_250ohm 1 2
Rp 1 2 360.3
Cp 1 2 0.6067p
Rs 1 N3 0.012
L1 N3 2 0.9514u
.ends MPSA_2220_78279224251_250ohm
*******
.subckt MPSA_2220_78279224271_270ohm 1 2
Rp 1 2 435
Cp 1 2 0.281966p
Rs 1 N3 0.02
L1 N3 2 0.815864u
.ends MPSA_2220_78279224271_270ohm
*******
.subckt MPSA_2220_78279224401_400ohm 1 2
Rp 1 2 641.7
Cp 1 2 0.4706p
Rs 1 N3 0.02
L1 N3 2 1.595u
.ends MPSA_2220_78279224401_400ohm
*******
.subckt MPSA_2220_78279224551_550ohm 1 2
Rp 1 2 152.6
Cp 1 2 0.78p
Rs 1 N3 0.035
L1 N3 2 0.3469u
.ends MPSA_2220_78279224551_550ohm
*******
.subckt MPSA_3312_78279225101_100ohm 1 2
Rp 1 2 145.3
Cp 1 2 0.130298p
Rs 1 N3 0.004
L1 N3 2 0.159935u
.ends MPSA_3312_78279225101_100ohm
*******
